US04011319
Following the procedure of Example 7 and employing 2.42 g. of sodium hydride, 9.46 g. of trimethylsulfonium iodide and 6.33 g. (0.046 mol) of m-methoxybenzaldehyde there is obtained m-methoxystyrene oxide.

reactant | sodium hydride | [H-].[Na+]
reactant | trimethylsulfonium iodide | [I-].C[S+](C)C
reactant | m-methoxystyrene oxide | COC=1C=C(C2CO2)C=CC1 | C9H10O2
product | m-methoxybenzaldehyde | 0.046 mol | COC=1C=C(C=O)C=CC1 | C8H8O2
